### PR TITLE
feat: add `IsLocalRing.embDim`, the embedding dimension of a local ring

### PR DESCRIPTION
**Pull request by Brian-Nugent**
This adds the embedding dimension of a local ring and proves basic properties about it. In particular, it proves that if we mod out by an element that is non-zero in the cotangent space, then the embedding dimension drops by exactly one.

Co-Authored-By: Jarod Alper [jarod@uw.edu](mailto:jarod@uw.edu)

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/RingTheory/EmbeddingDimension.lean [hunk 1]
```diff
@@ -0,0 +1,422 @@
...
+  have a : N.FG := IsNoetherian.noetherian N
+  have b : (⊤ : Submodule R N).FG := IsNoetherian.noetherian ⊤
+  have : @Nat.cast Cardinal.{u_2} instNatCast N.spanFinrank =
+      @Nat.cast Cardinal.{u_2} instNatCast (⊤ : Submodule R N).spanFinrank := by
+    rw[← Submodule.fg_iff_spanRank_eq_spanFinrank.mpr a]
+    rw[← Submodule.fg_iff_spanRank_eq_spanFinrank.mpr b]
+    exact spanRank_eq_spanRank_Top N
+  exact Nat.cast_injective this
+
+lemma Module.Finrank_eq_spanFinrankOfTop
```
[the remark this answers is not in the document]
Comment (Brian-Nugent) [reply Mathlib/RingTheory/EmbeddingDimension.lean:57]: I needed it for finrank and spanFinrank instead of rank and spanRank. The proof is just using Submodule.rank_eq_spanRank_of_free and rewriting everything.

[the remark this answers is not in the document]
Comment (Brian-Nugent) [reply Mathlib/RingTheory/EmbeddingDimension.lean:57]: Is there an easy way around this?

File: Mathlib/RingTheory/EmbeddingDimension.lean [hunk 2]
```diff
@@ -0,0 +1,340 @@
...
+  have spanrank_eq_spanFinrank : (⊤ : Submodule k V).spanRank=(⊤ : Submodule k V).spanFinrank :=
+    Submodule.fg_iff_spanRank_eq_spanFinrank.mpr (IsNoetherian.noetherian (⊤ : Submodule k V))
+  have finrank_eq_rank : Module.finrank k V = Module.rank k V := Module.finrank_eq_rank k V
+  rw [rank_eq_spanRank, spanrank_eq_spanFinrank, Nat.cast_inj] at finrank_eq_rank
+  exact finrank_eq_rank
+
+/-- the embedding dimension of `R` is equal to the minimum number of generators of `m`. -/
+theorem IsLocalRing.embDim_eq_spanFinrank_maximalIdeal
+    (R : Type*) [CommRing R] [IsLocalRing R] [IsNoetherianRing R] :
+    IsLocalRing.embDim R = (maxl R).spanFinrank := by
```
Comment (erdOne) [inline Mathlib/RingTheory/EmbeddingDimension.lean:71]: The proof of this should be something like
```
lemma Submodule.finrank_eq_spanFinrank_of_free
    (R : Type*) [Semiring R] [StrongRankCondition R]
    (V : Type*) [AddCommMonoid V] [Module R V] [Module.Free R V] :
    Module.finrank R V = (⊤ : Submodule R V).spanFinrank := by
  rw [Module.finrank, Submodule.rank_eq_spanRank_of_free, spanFinrank]

lemma Submodule.le_spanRank_restrictScalars
    {R S : Type*} [CommSemiring R] [Semiring S] [Algebra R S]
    {V : Type*} [AddCommMonoid V] [Module R V] [Module S V] [IsScalarTower R S V]
    (p : Submodule S V) :
    p.spanRank ≤ (p.restrictScalars R).spanRank := by
  refine le_ciInf fun ⟨s, hs⟩ ↦ (ciInf_le' _ ⟨s, ?_⟩).trans le_rfl
  exact le_antisymm (span_le.mpr (subset_span.trans hs.le))
    (hs.ge.trans (span_le_restrictScalars R S s))

lemma Submodule.spanRank_restrictScalars
    {R S : Type*} [CommSemiring R] [Semiring S] [Algebra R S]
    {V : Type*} [AddCommMonoid V] [Module R V] [Module S V] [IsScalarTower R S V]
    (p : Submodule S V) (H : Function.Surjective (algebraMap R S)) :
    (p.restrictScalars R).spanRank = p.spanRank := by
  refine p.le_spanRank_restrictScalars.antisymm'
    (le_ciInf fun ⟨s, hs⟩ ↦ (ciInf_le' _ ⟨s, ?_⟩).trans le_rfl)
  rw [← hs, Submodule.restrictScalars_span _ _ H]

lemma Submodule.le_spanFinrank_restrictScalars
    {R S : Type*} [CommSemiring R] [Semiring S] [Algebra R S]
    {V : Type*} [AddCommMonoid V] [Module R V] [Module S V] [IsScalarTower R S V]
    (p : Submodule S V) (hp : (p.restrictScalars R).FG) :
    p.spanFinrank ≤ (p.restrictScalars R).spanFinrank :=
  Cardinal.toNat_le_toNat p.le_spanRank_restrictScalars (by simpa)

lemma Submodule.spanFinrank_restrictScalars
    {R S : Type*} [CommSemiring R] [Semiring S] [Algebra R S]
    {V : Type*} [AddCommMonoid V] [Module R V] [Module S V] [IsScalarTower R S V]
    (p : Submodule S V) (H : Function.Surjective (algebraMap R S)) :
    (p.restrictScalars R).spanFinrank = p.spanFinrank := by
  rw [spanFinrank, spanFinrank, Submodule.spanRank_restrictScalars p H]

lemma lift_spanRank_map_le.{u, v}
    {R : Type*} {M : Type u} {N : Type v} [Semiring R] [AddCommMonoid M] [Module R M]
    [AddCommMonoid N] [Module R N] (σ : M →ₗ[R] N) (p : Submodule R M) :
    Cardinal.lift.{u} (p.map σ).spanRank ≤ Cardinal.lift p.spanRank := by
  obtain ⟨s, hs, rfl⟩ := exists_span_set_card_eq_spanRank p
  rw [Submodule.map_span, ← hs]
  exact (Cardinal.lift_monotone (spanRank_span_le_card _)).trans Cardinal.mk_image_le_lift

lemma lift_spanRank_map.{u, v}
    {R : Type*} {M : Type u} {N : Type v} [Semiring R] [AddCommMonoid M] [Module R M]
    [AddCommMonoid N] [Module R N] (σ : M →ₗ[R] N) (hσ : Function.Injective σ) (p : Submodule R M) :
    Cardinal.lift.{u} (p.map σ).spanRank = Cardinal.lift p.spanRank := by
  refine (lift_spanRank_map_le σ p).antisymm ?_
  obtain ⟨s, hs, hsp⟩ := exists_span_set_card_eq_spanRank (p.map σ)
  choose! v hv e using subset_span.trans hsp.le
  have : span R (v '' s) = p := by
    apply Submodule.map_injective_of_injective hσ
    rw [Submodule.map_span, ← hsp, ← Set.image_comp, Set.EqOn.image_eq_self]
    aesop
  rw [← hs, ← this]
  exact (Cardinal.lift_monotone (spanRank_span_le_card _)).trans Cardinal.mk_image_le_lift

lemma spanRank_map.{u}
    {R : Type*} {M N : Type u} [Semiring R] [AddCommMonoid M] [Module R M]
    [AddCommMonoid N] [Module R N] (σ : M →ₗ[R] N) (hσ : Function.Injective σ) (p : Submodule R M) :
    (p.map σ).spanRank = p.spanRank := by
  simpa using lift_spanRank_map σ hσ p

lemma spanFinrank_map_le
    {R M N : Type*} [Semiring R] [AddCommMonoid M] [Module R M]
    [AddCommMonoid N] [Module R N] (σ : M →ₗ[R] N) (p : Submodule R M) (hp : p.FG) :
    (map σ p).spanFinrank ≤ p.spanFinrank := by
  simpa using Cardinal.toNat_le_toNat (lift_spanRank_map_le σ p) (by simpa)

lemma spanFinrank_map
    {R M N : Type*} [Semiring R] [AddCommMonoid M] [Module R M]
    [AddCommMonoid N] [Module R N] (σ : M →ₗ[R] N)
    (hσ : Function.Injective σ) (p : Submodule R M) :
    (map σ p).spanFinrank = p.spanFinrank := by
  simpa using congr($(lift_spanRank_map σ hσ p).toNat)

lemma spanRank_eq_spanRank_top {R M : Type*} [Semiring R]
    [AddCommGroup M] [Module R M] (N : Submodule R M) :
    N.spanRank = (⊤ : Submodule R N).spanRank := by
  rw [← spanRank_map N.subtype Subtype.val_injective, Submodule.map_top, range_subtype]

lemma spanFinrank_eq_spanFinrank_top {R M : Type*} [Semiring R]
    [AddCommGroup M] [Module R M] (N : Submodule R M) :
    N.spanFinrank = (⊤ : Submodule R N).spanFinrank := by
  rw [spanFinrank, spanRank_eq_spanRank_top, spanFinrank]

open TensorProduct in
noncomputable
def Ideal.cotangentEquivTensorProduct {R : Type*} [CommRing R] (I : Ideal R) :
    I.Cotangent ≃ₗ[R ⧸ I] (R ⧸ I) ⊗[R] I :=
  (LinearEquiv.ofLinear
    (Submodule.liftQ _ (TensorProduct.mk _ _ _ 1) (by
      simp +contextual [Submodule.smul_le, TensorProduct.smul_tmul', Algebra.smul_def,
        Ideal.Quotient.eq_zero_iff_mem.mpr]))
    (TensorProduct.lift (Submodule.liftQ _ (.toSpanSingleton _ _ I.toCotangent) (fun x hx ↦ by
      ext a
      simp only [LinearMap.toSpanSingleton_apply, LinearMap.smul_apply, ← map_smul,
        LinearMap.zero_apply, Ideal.toCotangent_eq_zero, pow_two, SetLike.val_smul, smul_eq_mul]
      exact Ideal.mul_mem_mul hx a.2)))
    (by ext x; show 1 ⊗ₜ (1 • x) = 1 ⊗ₜ[R] x; rw [one_smul]) (by
      ext x
      obtain ⟨x, rfl⟩ := Ideal.toCotangent_surjective _ x
      show (1 : R ⧸ I) • I.toCotangent x = I.toCotangent x
      rw [one_smul]) : I.Cotangent ≃ₗ[R] (R ⧸ I) ⊗[R] I).extendScalarsOfSurjective
    Ideal.Quotient.mk_surjective

open TensorProduct in
@[simp]
lemma Ideal.cotangentEquivTensorProduct_symm_tmul {R : Type*} [CommRing R] (I : Ideal R)
    (x : R ⧸ I) (y : I) :
    I.cotangentEquivTensorProduct.symm (x ⊗ₜ y) = x • I.toCotangent y := by
  obtain ⟨x, rfl⟩ := Ideal.Quotient.mk_surjective x
  rfl

lemma Set.ncard_image {α β : Type*} (f : α → β) {s : Set α} (hs : s.Finite) :
    (f '' s).ncard ≤ s.ncard := by
  classical
  lift s to Finset α using hs
  rw [← Finset.coe_image, ncard_coe_Finset, ncard_coe_Finset]
  exact Finset.card_image_le

lemma Set.ncard_range {α β : Type*} (f : α → β) [Finite α] :
    (Set.range f).ncard ≤ Nat.card α := by
  rw [← Set.image_univ, ← Set.ncard_univ]
  exact Set.ncard_image _ Set.finite_univ

/-- the embedding dimension of `R` is equal to the minimum number of generators of `m`. -/
theorem IsLocalRing.embDim_eq_spanFinrank_maximalIdeal
    (R : Type*) [CommRing R] [IsLocalRing R] [IsNoetherianRing R] :
    IsLocalRing.embDim R = (maxl R).spanFinrank := by
  rw [embDim, spanFinrank_eq_spanFinrank_top (maximalIdeal R)]
  apply le_antisymm
  · rw [Submodule.finrank_eq_spanFinrank_of_free]
    refine (Submodule.le_spanFinrank_restrictScalars (R := R) _
      (Module.finite_def.mp inferInstance)).trans ?_
    refine le_trans ?_ (spanFinrank_map_le (Ideal.toCotangent _) _ ?_)
    · simp [LinearMap.range_eq_top.mpr (Ideal.toCotangent_surjective _)]
    · exact Module.finite_def.mp inferInstance
  · let I := Module.Free.ChooseBasisIndex (ResidueField R) (CotangentSpace R)
    let b : Basis I (ResidueField R) (CotangentSpace R) := Module.Free.chooseBasis _ _
    choose x hx using fun i ↦ Ideal.toCotangent_surjective _ (b i)
    have := IsLocalRing.span_eq_top_of_tmul_eq_basis x
      (b.map (Ideal.cotangentEquivTensorProduct (maximalIdeal R)))
      (by simp [← LinearEquiv.symm_apply_eq, ResidueField, hx, CotangentSpace])
    rw [← this]
    refine (spanFinrank_span_le_ncard_of_finite (Set.finite_range x)).trans ?_
    rw [Module.finrank_eq_card_basis b, ← Nat.card_eq_fintype_card]
    exact Set.ncard_range _
```

Comment (Brian-Nugent) [reply Mathlib/RingTheory/EmbeddingDimension.lean:182]: I've added your proof. I imagine I should move these statements to different files though?

Comment (erdOne) [reply Mathlib/RingTheory/EmbeddingDimension.lean:182]: Yes. Some of them will also replace your existing lemmas.

**Comment by leanprover-community-bot-assistant** [comment]
This pull request has conflicts, please merge `master` and resolve them.
